* Z:\mnt\design.r\spice\examples\3597.asc
L1 N006 N002 100µ
R1 N002 N010 97K
R2 N010 0 9.1K
D1 N002 N009 AOT-2015 N=3
R3 N007 N011 90.9K
R4 N011 0 49.9K
V1 N001 0 48
C1 N002 0 3.3µ
R5 N007 N013 10K
R6 N013 0 100K
R7 0 N012 33.2K
R8 0 N014 20K
D2 N008 N006 MBRS140
C2 N004 N006 .1µ
XU1 N007 N008 N001 N006 N003 N012 N005 N014 MP_01 MP_02 N010 MP_03 MP_04 0 N002 N004 MP_05 N007 MP_06 N013 N007 N009 MP_07 MP_08 N011 LT3597
R9 N001 N003 270KK
R10 N003 0 91K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .75m startup
.lib LT3597.sub
.backanno
.end
